US08207147B2
3-Pyridin-4-yl-[1,2,4]oxadiazole-5-carboxylic acid (4-pentylcyclohexyl)amide
A solution of 3-pyridin-4-yl-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester (50.5 mg, 0.23 mmol) and 4-pentylcyclohexylamine (39 mg, 0.23 mmol) in anhydrous toluene (2 ml) was treated with triethylaluminium (345 μl of a 2M solution in hexanes, 0.69 mmol). After stirring at rt for 18 h, saturated aqueous NaHCO3 (2 ml) was added and the mixture diluted with CH2Cl2 (25 ml). The organic phase was separated, washed with brine (5 ml) and dried (MgSO4). The solvent was evaporated and the residue purified by flash chromatography to afford the title compound: RT=4.14 min; m/z (ES+)=343.2 [M+]+.

reactant | 3-pyridin-4-yl-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 0.23 mmol, 50.5 mg | C(C)OC(=O)C1=NC(=NO1)C1=CC=NC=C1 | C10H9N3O3
reactant | 4-pentylcyclohexylamine | 0.23 mmol, 39 mg | C(CCCC)C1CCC(CC1)N | C11H23N
reactant | triethylaluminium | C(C)[Al](CC)CC
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-Pyridin-4-yl-[1,2,4]oxadiazole-5-carboxylic acid (4-pentylcyclohexyl)amide | C(CCCC)C1CCC(CC1)NC(=O)C1=NC(=NO1)C1=CC=NC=C1 | C19H26N4O2
